US04304785
N-[5-(trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenylbenzofuran-2-yl)-2-hydroxy-3-methoxyphenylmethyl]-N-methylglycine;
salts N-[5-(trans-2,3-dihydro7-methoxy-3-methyl-5-(E)-propenyl-benzofuran-2-yl)-2-hydroxy-3-methoxyphenylmethyl]-N-(2-hydroxyethyl)-N-methylammonium-L-aspartate, and salt of N-[5-(trans-2,3-dihydro-7-methoxy-3-methyl)-5-(E)-propenyl-benzofuran-2-yl)-2-hydroxy-3-methoxyphenylmethyl]-N-(2-hydroxyethyl)-N-methylamine with α-liponic acid.

reactant | N-[5-(trans-2,3-dihydro7-methoxy-3-methyl-5-(E)-propenyl-benzofuran-2-yl)-2-hydroxy-3-methoxyphenylmethyl]-N-(2-hydroxyethyl)-N-methylammonium-L-aspartate | N[C@@H](CC(=O)[O-])C(=O)[O-].COC1=CC(=CC=2[C@H]([C@@H](OC21)C=2C=C(C(=C(C2)C[NH+](C)CCO)O)OC)C)\C=C\C.COC2=CC(=CC=1[C@H]([C@@H](OC12)C=1C=C(C(=C(C1)C[NH+](CCO)C)O)OC)C)\C=C\C
reactant | N-(2-hydroxyethyl)-N-methylamine | OCCNC | C3H9NO
reactant | α-liponic acid | C1CSSC1CCCCC(=O)O | C8H14O2S2
product | N-[5-(trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenylbenzofuran-2-yl)-2-hydroxy-3-methoxyphenylmethyl]-N-methylglycine | COC1=CC(=CC=2[C@H]([C@@H](OC21)C=2C=C(C(=C(C2)CN(CC(=O)O)C)O)OC)C)\C=C\C | C24H29NO6
